US07314888B1
In 11 ml of tetrahydrofuran is suspended 3.34 g of isopentyltriphenylphosphonium iodide, to which is dropwise added 4.3 ml of a 1.53 mol/L solution of n-butyllithium in n-hexane at −25° C. to −20° C. After stirring the mixture at −25° C. to −15° C. for one hour, the temperature is elevated to ambient temperature in one hour. To the reaction mixture is dropwise added 1.10 g of benzyl (2S,4R)-2-formyl-4-(tetrahydro-2H-pyran-2-yloxy)-1-pyrrolidinecarboxylate dissolved in 11 ml of tetrahydrofuran over a period of 20 minutes. The mixture thus obtained is stirred at ambient temperature for 5 hours. The reaction mixture is added to a mixture of ethyl acetate and water, and the organic layer is separated. The organic layer thus obtained is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and then the solvent is distilled off under reduced pressure. The residue thus obtained is purified by silica gel column chromatography (eluent; n-hexane:ethyl acetate=4:1) to obtain 0.62 g of benzyl (2S,4R)-2-(4-methyl-1-pentenyl)-4-(tetrahydro-2H-pyran-2-yloxy)-1-pyrrolidinecarboxylate as a light yellow oily product.

reactant | isopentyltriphenylphosphonium iodide | 3.34 g | [I-].C(CC(C)C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | C(CCC)[Li]
reactant | benzyl (2S,4R)-2-formyl-4-(tetrahydro-2H-pyran-2-yloxy)-1-pyrrolidinecarboxylate | 1.10 g | C(=O)[C@H]1N(C[C@@H](C1)OC1OCCCC1)C(=O)OCC1=CC=CC=C1 | C18H23NO5
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 11 ml | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 11 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | benzyl (2S,4R)-2-(4-methyl-1-pentenyl)-4-(tetrahydro-2H-pyran-2-yloxy)-1-pyrrolidinecarboxylate | 0.62 g | CC(CC=C[C@H]1N(C[C@@H](C1)OC1OCCCC1)C(=O)OCC1=CC=CC=C1)C | C23H33NO4
